US06627764B1
Preparation of 4-(4′-tert-butylphenyl)indene
9.0 g (34 mmol) of 4-(4′-tert-butylphenyl)indanone and 1.3 g (34 mmol) of sodium borohydride together with 32 ml of toluene are placed in a reaction vessel. The reaction mixture is heated to 50° C., after which 6.2 ml (148 mmol) of methanol are added over a period of 10 minutes. After the addition is complete, the mixture is stirred at 50° C. for 2 hours. After addition of 30 ml of a saturated ammonium chloride solution, the mixture is stirred for another 30 minutes. After separating off the aqueous phase, the organic phase is washed once with a saturated ammonium chloride solution and once with a saturated sodium chloride solution. After drying over magnesium sulfate, the solvent mixture is removed on a rotary evaporator, the residue is made up to a total volume of 150 ml with toluene and is admixed with 0.2 g of p-toluenesulfonic acid. After 30 minutes, no more elimination of water is observed. The reaction mixture is subsequently washed once with a saturated sodium hydrogen carbonate solution, then dried over magnesium sulfate and the solvent is removed in an oil pump vacuum. 7.3 g (86%) of the desired product are isolated.

reactant | 4-(4′-tert-butylphenyl)indanone | 34 mmol, 9.0 g | C(C)(C)(C)C1=CC=C(C=C1)C1=C2CCC(C2=CC=C1)=O | C19H20O
reactant | sodium borohydride | 34 mmol, 1.3 g | [BH4-].[Na+]
reactant | methanol | 148 mmol, 6.2 ml | CO | CH4O
reactant | ammonium chloride | 30 ml | [Cl-].[NH4+]
solvent | toluene | 32 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(4′-tert-butylphenyl)indene | 7.3 g, 86% | C(C)(C)(C)C1=CC=C(C=C1)C1=C2C=CCC2=CC=C1 | C19H20
